* C:\Users\malli\eSim\src\SubcircuitLibrary\lm7805\lm7805.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/25/19 21:51:22

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  Net-_Q16-Pad1_ Net-_Q1-Pad2_ 100k		
R2  Net-_Q16-Pad1_ Net-_Q1-Pad1_ 500		
R3  Net-_Q1-Pad3_ Net-_Q2-Pad2_ 3.3k		
R4  Net-_Q2-Pad2_ Net-_Q10-Pad2_ 2.7k		
U1  Net-_Q10-Pad3_ Net-_Q1-Pad2_ zener		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R5  Net-_Q10-Pad2_ Net-_Q10-Pad3_ 500		
Q2  Net-_Q2-Pad1_ Net-_Q2-Pad2_ Net-_Q2-Pad3_ eSim_NPN		
Q4  Net-_Q2-Pad3_ Net-_Q3-Pad1_ Net-_Q3-Pad2_ eSim_NPN		
R6  Net-_Q2-Pad3_ Net-_Q3-Pad1_ 1k		
Q3  Net-_Q3-Pad1_ Net-_Q3-Pad2_ Net-_Q10-Pad3_ eSim_NPN		
R7  Net-_Q3-Pad2_ Net-_Q10-Pad3_ 6k		
Q6  Net-_C1-Pad2_ Net-_Q3-Pad2_ Net-_Q6-Pad3_ eSim_NPN		
R10  Net-_Q6-Pad3_ Net-_Q10-Pad3_ 1k		
Q7  Net-_Q2-Pad1_ Net-_Q12-Pad1_ Net-_Q7-Pad3_ eSim_NPN		
Q8  Net-_Q7-Pad3_ Net-_Q12-Pad3_ Net-_Q2-Pad3_ eSim_NPN		
Q12  Net-_Q12-Pad1_ Net-_Q12-Pad2_ Net-_Q12-Pad3_ eSim_NPN		
R12  Net-_Q12-Pad3_ Net-_Q2-Pad3_ 6k		
R9  Net-_Q2-Pad3_ Net-_C1-Pad2_ 20k		
Q5  Net-_Q2-Pad1_ Net-_Q2-Pad1_ Net-_Q5-Pad3_ eSim_PNP		
Q9  Net-_Q10-Pad1_ Net-_Q2-Pad1_ Net-_Q9-Pad3_ eSim_PNP		
R8  Net-_Q16-Pad1_ Net-_Q5-Pad3_ 100		
R11  Net-_Q16-Pad1_ Net-_Q9-Pad3_ 50		
Q10  Net-_Q10-Pad1_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_NPN		
Q11  Net-_C1-Pad1_ Net-_C1-Pad2_ Net-_Q11-Pad3_ eSim_NPN		
Q13  Net-_C1-Pad1_ Net-_Q11-Pad3_ Net-_Q10-Pad3_ eSim_NPN		
R13  Net-_Q11-Pad3_ Net-_Q10-Pad3_ 6k		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 30p		
R14  Net-_Q10-Pad1_ Net-_C1-Pad1_ 6k		
Q14  Net-_Q10-Pad3_ Net-_C1-Pad1_ Net-_Q10-Pad1_ eSim_PNP		
Q15  Net-_Q10-Pad1_ Net-_Q15-Pad2_ Net-_Q12-Pad1_ eSim_NPN		
R17  Net-_Q12-Pad2_ Net-_Q10-Pad3_ 5k		
R16  Net-_Q12-Pad1_ Net-_Q12-Pad2_ 1.385k		
R15  Net-_Q16-Pad1_ Net-_R15-Pad2_ 10k		
U2  Net-_Q15-Pad2_ Net-_R15-Pad2_ zener		
Q16  Net-_Q16-Pad1_ Net-_Q10-Pad1_ Net-_Q16-Pad3_ eSim_NPN		
Q17  Net-_Q16-Pad1_ Net-_Q16-Pad3_ Net-_Q17-Pad3_ eSim_NPN		
R18  Net-_Q16-Pad3_ Net-_Q12-Pad1_ 200		
R20  Net-_Q17-Pad3_ Net-_Q12-Pad1_ 0.3		
R19  Net-_Q17-Pad3_ Net-_Q15-Pad2_ 240		
U3  Net-_Q16-Pad1_ Net-_Q10-Pad3_ Net-_Q12-Pad1_ PORT		

.end
